US07902184B2
b) Step 2: Cyclopentanecarboxylic acid [2-(4-cyclopentyl-piperazin-1-yl)-pyrimidin-4-yl]-amide
A mixture of 10 mg (0.04 mmol) 2-(4-cyclopentyl-piperazin-1-yl)-pyrimidin-4-ylamine, 10.8 mg (0.082 mmol) cyclopentylcarbonyl chloride and 13.5 mg (0.12 mmol) potassium t-butoxide in 0.7 mL THF was shaken at room temperature for 16 h. The mixture was treated with water and methanol and subjected to preparative HPLC purification on reversed phase eluting with a gradient of acetonitrile/water (0.05% triethylamine). The combined product fractions were evaporated to dryness to yield 3 mg (21%) of the title compound as white solid. MS (m/e): 344.1 (MH+).

reactant | 2-(4-cyclopentyl-piperazin-1-yl)-pyrimidin-4-ylamine | 0.04 mmol, 10 mg | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=N1)N | C13H21N5
reactant | cyclopentylcarbonyl chloride | 0.082 mmol, 10.8 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
reactant | potassium t-butoxide | 0.12 mmol, 13.5 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | THF | 0.7 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | Cyclopentanecarboxylic acid [2-(4-cyclopentyl-piperazin-1-yl)-pyrimidin-4-yl]-amide | 3 mg, 21% | C1(CCCC1)N1CCN(CC1)C1=NC=CC(=N1)NC(=O)C1CCCC1 | C19H29N5O
